US08865713B2
Step B: 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a mixture of 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (2.55 g, 4.61 mmol) and EtOH (11.5 mL) was added 4M HCl in dioxane (11.5 mL). The mixture was stirred for 3 h at 23° C. The reaction mixture was concentrated and Et2O was added. The solids were filtered and washed with Et2O to yield the titled compound (1.92 g, 89%). MS (ESI/CI): mass calcd. for C19H14Cl2N4O4S, 464.0; m/z found, 465.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 9.02 (s, 1H), 8.45 (s, 1H), 8.40 (s, 1H), 7.95-7.92 (m, 2H), 7.76 (br s, 1H), 7.70-7.67 (m, 2H), 4.30 (q, J=7.1 Hz, 2H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 4.61 mmol, 2.55 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C23H22Cl2N4O6S
reactant | EtOH | 11.5 mL | CCO | C2H6O
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 11.5 mL | O1CCOCC1 | C4H8O2
product | 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.92 g, 89% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C19H14Cl2N4O4S
